Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin
 
Attending: ___
 
Chief Complaint:
Fever, throat pain, swollen lymph nodes 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with PMH of
anxiety/depression who presents with nausea, vomiting, and PO
intolerance having recently started ciprofloxacin for treatment
of a urinary tract infection. 

The patient states that she was feeling well until approximately
four weeks ago when she developed respiratory symptoms and was
prescribed a course of azithromycin at the ___. She
mostly improved with this treatment besides a persistent dry
cough. On ___, she was seen in the ED for evaluation of cough
and anxiety. On that visit she endorsed ongoing dry cough,
diffuse body aches, and drenching sweats. Her chest x ray, urine
pregnancy test, flu testing, and EKG were all normal. She was
discharged with plan to establish PCP ___. 

Ms. ___ was then seen on ___ at ___. On this visit, the
patient endorsed subjective fevers, anorexia, and episodes of
nausea with associated vomiting. These symptoms were attributed
to UTI as her ED urine Cx had turned positive for E.Coli. She 
was
prescribed a five day course of cipro. Of additional concern was
mono given the atypical cells noted on her CBC with diff from 
the
ED and EBV serologies were added onto her ED labs.  

Over the past several days since this visit, she has developed
progressive nausea and multiple episodes of vomiting with
inability to tolerate PO intake. She also developed a new itchy
"yellow, ___ rash." Due to these concerns, she contacted the
oncall physician who was concerned about a drug allergy and
developing pyelonephritis and recommended that the patient
present to the ED for further evaluation.  

In the ED, intitial vitals were: T98.6, HR 128, BP 107/62, RR 
18,
100% on RA. Exam notable for urticarial rash in lower 
extremities
and inguinal LAD. Labs notable for abnormal LFTS with mixed
hyperbilirubinemia. UA with WBC 29, few bacteria. CXR without
acute cardiopulmonary process. Patient given 1gm CFTX, 1L LR, 
and
Zofran. 

On arrival to the floor, patient affirms the above history. She
additionally adds that her nausea/vomiting improved following
medicine given in the ED. She denies RUQ or LUQ pain. The 
patient
further adds that she had a fever earlier this week of ___ and
she's also felt weak and dizzy with standing. Just today she's
started developing a sore throat. Patient denies any recent sick
contacts, but her father seems to remember her telling him that 
a
few students had mono last semester when was studying abroad in
___. 
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
GAD/depression

 
Social History:
___
Family History:
Patient is adopted and doesn't know her family history. 

 
Physical Exam:
ADMISSION EXAM: 
T99.4 BP 116/72 HR 101 RR 18 96% on RA 
GENERAL: well nourished young woman resting in bed in NAD. 
EYES: slightly icteric sclera
ENT: no obvious tonsilar exudates but difficult to appreciate
without tongue depressor. Notable for bilateral soft anterior
cervical LAD mildly tender to palpation. 
CV: tachycardic but regular, no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  Splenomegaly not obvious on my exam. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: very few (___) scattered hives noted on lower extremities,
improving per patient. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM: 
VS: Afebrile, HDS
GENERAL: well nourished young woman resting in bed in NAD. 
HEENT: MMM, bilateral soft anterior cervical LAD mildly tender 
to palpation
CV: RRR, no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No obvious HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: no rashes, edema  
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:08AM BLOOD WBC-7.2 RBC-3.48* Hgb-9.4* Hct-28.8* 
MCV-83 MCH-27.0 MCHC-32.6 RDW-14.0 RDWSD-42.1 Plt Ct-CLUMPED PL
___ 02:50PM BLOOD Neuts-22* ___ Monos-8 Eos-1 Baso-2* 
Atyps-21* Plasma-1* AbsNeut-1.96 AbsLymp-5.87* AbsMono-0.71 
AbsEos-0.09 AbsBaso-0.18*
___ 06:35AM BLOOD Glucose-85 UreaN-9 Creat-0.8 Na-139 K-3.7 
Cl-103 HCO3-22 AnGap-14
___ 06:35AM BLOOD ALT-165* AST-178* LD(LDH)-688* 
AlkPhos-270* TotBili-6.7*
___ 06:08AM BLOOD ALT-172* AST-188* LD(LDH)-689* 
AlkPhos-279* TotBili-6.8*

___ neck with contrast:
1. Bilateral cervical lymphadenopathy and upper mediastinal, as 
detailed 
above.  No evidence of vascular compression. 
2. Prominent adenoids and palatine tonsils without mass or fluid 
collection.  Narrowing of the nasopharynx.  The remaining airway 
appears patent. 

 
Brief Hospital Course:
This is a ___ female with a history of generalized 
anxiety disorder/depression, recent UTI who presents with fever, 
sore throat, generalized malaise and lymphadenopathy.  Initial 
laboratory workup most notable for mild LFT abnormality and EBV 
IgM positivity.  Abdominal ultrasound was notable for 
splenomegaly.  Given constellation of presenting symptoms and 
laboratory/radiologic data, the diagnosis of infectious 
mononucleosis were made.  She was treated with IV fluid and 
Tylenol/ibuprofen as needed for pain.  Her overall symptoms 
improved with these interventions and she was tolerating 
adequate p.o. at the time of discharge.  Of note, she did report 
facial swelling and headache on day 2 of her admission which 
prompted a CT neck with contrast.  CT neck with contrast showed 
diffuse lymphadenopathy but did not show any signs of airway or 
vascular compromise.

Of note, she reported suprapubic tenderness and dark urine 
during her admission.  Given that she had received 3-days of 
ciprofloxacin prior to admission, she received ceftriaxone 1G IV 
x2 days to complete a 5-day course of total antibiotics.  She 
reported improvement in her superior tenderness and dark urine 
prior to discharge.

She was also started on sertraline which was prescribed by her 
PCP.  She was advised to ___ with her PCP ___ 1 week of 
discharge from the hospital.

The patient's mother was at bedside and updated on overall plan 
and she was agreeable to above recommendations.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 250 mg PO Q12H 
2. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
3.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infectious mononucleosis
Urinary tract infection

 
Discharge Condition:
Discharge condition–stable
Mental status–alert and oriented x3
Ambulatory

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to infectious 
mononucleosis and urinary tract infection.  You were treated 
with an IV antibiotic called IV ceftriaxone.  Given that you had 
taken 3-day course of ciprofloxacin as an outpatient, the 2 
courses of IV ceftriaxone to complete a 5-day course of 
antibiotic treatment for urinary tract infection. 

Infectious mononucleosis was just treated symptomatically with 
IV fluids, Tylenol and ibuprofen as needed for pain.  Your 
initial presenting symptoms improved with these interventions.  
Prior to discharge, you are tolerating adequate foods/drinks by 
mouth. 

You were also started on sertraline which was prescribed by your 
outpatient providers while you are in the hospital.

Given that you were without fever times 24 hours and otherwise 
clinically stable and taking adequate oral intake, you are being 
discharged with close outpatient PCP ___.

You should take Tylenol ___ mg by mouth 3 times a day as needed 
for pain.  If this does not relieve your symptoms, please take 
ibuprofen 600 mg 3 times a day as needed for pain with food.

Given risk for splenic injury with infectious mononucleosis, you 
should avoid any contact sports until discussing with your 
primary care physician.

Best,
___, MD
 
Followup Instructions:
___